Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever, cough, fatigue
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ history of multiple myeloma, day 258, s/p autologous 
transplant, on revlamid presenting from clinic with fevers, 
cough and fatigue.

She was out shopping yesterday, and developed a dry cough. She 
then later began to feel fatigued. She cough is intermittently 
productive of tannish sputum with occasional flecks of bright 
red blood. She also noticed she was gagging a bit with brushing 
her teeth. She was up all last night coughing. She feels mild 
shortness of breath and a sensation of chest burning when she 
coughs. Her throat is midly sore as well.

She went into work today, but continued to feel unwell and very 
faitgued, so she called in to make an appointment. She arrived 
at clinic with a fever ot 100.6, later measured at 101.3 and 
102.7.

She has been around her ___ year old gradnson as of late. She 
also works in an Emergency Department and says she is not 
consistent about always wearing a mask when interacting with 
patients. No recent travel, no pets at home. She denies muscle 
aches and joint pains. No rashes.

A chest x-ray was done showing a questionable small opacity in 
the right upper lobe. Blood cultures were drawn and a flu swab 
was done.
 
Past Medical History:
Asthma
HTN
TAH, tubal ligation
 
Social History:
___
Family History:
Mother died of CRF complicated by CAD at age ___. Father died of 
laryngeal cancer at ___. One sister with MM. One sister with 
ovarian ___, One brother with liver CA. 10 healthy siblings.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vitals: 101.1  150/76  88  22  98%
Gen: Pleasant, calm woman lying in bed, maybe slightly 
diaphoretic, coughing throughout exam
HEENT: No conjunctival pallor. No icterus. MMM. OP clear. No 
sinus tenderness.
CV: Tachycardic, normal rhythm. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses. Some dry 
skin on lateral neck bilaterally.  
NEURO: A&Ox3. Normal strength in lower extremities.
LINES: PIV

DISCHARGE PHYSICAL EXAM

 
Pertinent Results:
ADMISSION LABS
___ 03:05PM BLOOD WBC-4.4# RBC-3.38* Hgb-10.9* Hct-31.9* 
MCV-95 MCH-32.1* MCHC-34.0 RDW-15.0 Plt ___
___ 03:05PM BLOOD Neuts-62.1 ___ Monos-6.8 Eos-4.4* 
Baso-0.7
___ 03:05PM BLOOD UreaN-9 Creat-0.9 Na-141 K-3.2* Cl-104 
HCO3-26 AnGap-14
___ 03:05PM BLOOD Glucose-98
___ 03:05PM BLOOD ALT-16 AST-19 LD(LDH)-222 AlkPhos-78 
TotBili-0.7
___ 03:05PM BLOOD TotProt-7.7 Albumin-4.6 Globuln-3.1 
Calcium-9.3 Phos-2.3* Mg-1.6 UricAcd-4.6
___ 03:05PM BLOOD IgG-1348
___ 12:04AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:04AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:04AM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1

MICROBIOLOGY
___ 04:00PM OTHER BODY FLUID FluAPCR-POSITIVE * 
FluBPCR-NEGATIVE

IMAGING
___ CXR
IMPRESSION:  
New small focal consolidation in the right upper lobe, which may 
possibly 
represent a very early/focal pneumonia. Follow-up chest 
radiograph in 4 weeks after initiation of treatment is 
recommended to assess resolution. 

DISCHARGE LABS
___ 06:50AM BLOOD WBC-4.0 RBC-3.15* Hgb-10.0* Hct-30.3* 
MCV-96 MCH-31.8 MCHC-33.0 RDW-15.7* Plt ___
___ 06:50AM BLOOD Neuts-58.9 ___ Monos-10.4 Eos-2.7 
Baso-0.4
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-102* UreaN-8 Creat-0.9 Na-138 
K-4.0 Cl-103 HCO3-28 AnGap-11
___ 06:50AM BLOOD Calcium-8.0* Phos-2.2* Mg-2.___ history of multiple myeloma, day 258, s/p autologous 
transplant, on revlamid presenting from clinic with fevers, 
cough and fatigue found to have influenza.

# INFLUENZA A: Patient initially presented with fevers up to 
102.3, dry cough and severe fatigue. Nasopharyngeal swab testing 
was positive for influenza A. Her initial CXR findings were 
somewhat concerning for pneumonia. The decision was made to 
treat conservatively initially given patient's immunocompromised 
status and possible pneumonia, so she was started on oseltamivir 
150mg PO BID and levofloxacin 750mg daily starting ___. She 
was treated supportively with tylenol for fevers and muscle 
aches, and guafenesin-dextromethorpan for cough. She was 
discharged in stable condition on ___ on a course of 
oseltamivir for 5 total days and levofloxacin for five total 
days.

# MULTIPLE MYELOMA s/p AUTOLOGOUS STEM CELL TRANSPLANT: The 
patient's IgG level was within normal limits and last SPEP 
showed only trace abnormal monoclonal spike, so she was not 
given IVIG. She was continued on acyclovir for viral propylaxis 
and her lenalidomide was held. Addiitonally, aspirin, which she 
takes for DVT prophylaxis while on lenalinomide, was held in 
favor of subcutaneous heparin.

# NEUROPATHY: This is a chronic problem for the patient, 
characterized by bilateral tingling in fingers/feet. She is 
followed by Neurology. This was stable, so she was continued on 
her home amitriptyline, gabapentin and duloxetine.

# MILD SYSTOLIC DYSFUNCTION: Patient has a history of depressed 
EF down to 40% this past ___. Repeat echo this ___ 
showed improvement to 50-55%. Her home carvedilol was continued. 
Lasix was held due to concern for infection and need for 
intravascular volume.

TRANSITIONAL ISSUES:
- Consider repeating CXR in 4 weeks to assess interval 
resolution of radiographic findings.
- Please discuss resuming lasix upon resolution of infection.
- Resume lenalidomide at the direction of outpatient Oncology.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Amitriptyline 25 mg PO QHS 
3. Carvedilol 6.25 mg PO DAILY 
4. Duloxetine 30 mg PO DAILY 
5. Furosemide 20 mg PO EVERY OTHER DAY 
6. Gabapentin 600 mg PO TID 
7. Pantoprazole 40 mg PO Q12H 
8. Aspirin 81 mg PO DAILY 
9. Lenalidomide 10 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Amitriptyline 25 mg PO QHS 
3. Carvedilol 6.25 mg PO DAILY 
4. Duloxetine 30 mg PO DAILY 
5. Gabapentin 600 mg PO TID 
6. Pantoprazole 40 mg PO Q12H 
7. Acetaminophen ___ mg PO Q6H:PRN Fever, pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*0
8. Levofloxacin 750 mg PO DAILY 
RX *levofloxacin [Levaquin] 750 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0
9. OSELTAMivir 150 mg PO Q12H Duration: 10 Days 
RX *oseltamivir [Tamiflu] 75 mg 2 capsule(s) by mouth twice a 
day Disp #*12 Capsule Refills:*0
10. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Influenza
Multiple Myleoma
Neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you during your recent 
hospitalization at ___. You were admitted from clinic with 
fevers, fatigue and a cough. You were diagnosed with influenza, 
and started on oseltamivir for this and also given levaquin for 
a possible underlying pneumonia.

Please take the entire course of oseltamivir and levofloxacin. 
Make sure to rest and take in plenty of fluids. It is okay to 
take up to 4g of tylenol per day for your fevers and muscle 
aches. Wait until your ___ appointment before taking your 
lenalidomide, and discuss with your outpatient oncologist at 
that time. 

We wish you a speedy recovery!
-Your ___ Team
 
Followup Instructions:
___